US09238640B2
A solution of 4-(3,5-dimethylpiperazin-1-yl)benzaldehyde (1.0 g, 4.6 mmol.) in CH2Cl2 (15 mL) was cooled to 0° C. and treated with Et3N (0.64 mL, 4.6 mmol) followed by acetyl chloride (0.33 mL, 4.6 mmol). The reaction stirred for 30 minutes, then concentrated in vacuo. Purification by flash chromatography on silica gel, eluting with 0% to 50% EtOAc/CH2Cl2, afforded 4-(4-acetyl-3,5-dimethylpiperazin-1-yl)benzaldehyde (1.0 g, 83%).

reactant | 4-(3,5-dimethylpiperazin-1-yl)benzaldehyde | 4.6 mmol, 1.0 g | CC1CN(CC(N1)C)C1=CC=C(C=O)C=C1 | C13H18N2O
reactant | Et3N | 4.6 mmol, 0.64 mL | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 4.6 mmol, 0.33 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-acetyl-3,5-dimethylpiperazin-1-yl)benzaldehyde | 1.0 g, 83% | C(C)(=O)N1C(CN(CC1C)C1=CC=C(C=O)C=C1)C | C15H20N2O2
